US07417142B2
meso-Chiral Porphyrin 17c (Mixture of α,α and α,β)
The general procedure was used to couple 5,15-dibromo-10,20-di(3′,5′-di-tert-butylphenyl)porphyrin (0.043 g, 0.05 mmol) with (R)-(+)-4-benzyl-2-oxazolidinone (0.0708 g, 0.4 mmol), using Pd2(dba)3 (0.0023 g, 0.0025 mmol) and Xantphos (0.0058 g, 0.01 mmol) in the presence of Cs2CO3 (0.0652 g, 0.2 mmol). The reaction was conducted in THF (5 mL) at 80° C. for 22 h. The title compound was isolated by flash column chromatography (silica gel, ethyl acetate:hexanes (v/v)=1:3) as purple mixture of two atropic isomers (0.039 g, 79%, α,α/α,β=50%/50%). 1H NMR (300 MHz, CDCl3): δ 9.48 (d, J=4.8 Hz, 2H), 9.46 (d, J=4.8 Hz, 2H), 9.27 (d, J=4.8 Hz, 2H), 9.25 (d, J=4.8 Hz, 2H), 9.08 (d, J=4.8 Hz, 2H), 9.04 (d, J=4.8 Hz, 2H), 9.02 (d, J=4.8 Hz, 2H), 9.00 (d, J=4.8 Hz, 2H), 8.24 (s, 2H), 8.12 (d, J=0.9 Hz, 2H), 8.07 (d, J=0.9 Hz, 2H), 7.93 (s, 2H), 7.86 (s, 4H), 7.08 (m, 12H), 6.88 (m, 8H), 5.40 (m, 2H), 5.27 (m, 2H), 5.03 (q, J=9.0 Hz, 4H), 4.84 (q, J=7.8 Hz, 4H), 3.27 (m, 4H), 3.00 (m, 2H), 2.77 (m, 2H), 1.61 (s, 18H), 1.59 (s, 18H), 1.56 (s, 18H), 1.53 (s, 18H), −2.76 (s, 2H), −2.81 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 159.5, 159.4, 149.3, 149.1, 149.0, 140.2, 140.0, 135.1, 130.1, 130.1, 129.8, 129.8, 128.8, 128.7, 127.1, 127.0, 122.9, 121.5, 111.4, 111.2, 68.9, 68.8, 66.3, 40.5, 40.4, 35.1, 31.8, 31.7. UV-vis (CHCl3, λmax, nm): 419, 514, 549, 591, 646. HRMS-MALDI ([M+H]+): calcd for C68H73N6O4, 1037.5688; found: 1037.5677 with an isotope distribution pattern that is the same as calculated one.

reactant | 5,15-dibromo-10,20-di(3′,5′-di-tert-butylphenyl)porphyrin | 0.05 mmol, 0.043 g | BrC=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC(=CC(=C4)C(C)(C)C)C(C)(C)C)N3)Br)=N2)C2=CC(=CC(=C2)C(C)(C)C)C(C)(C)C | C48H52Br2N4
reactant | (R)-(+)-4-benzyl-2-oxazolidinone | 0.4 mmol, 0.0708 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | Xantphos | 0.01 mmol, 0.0058 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.2 mmol, 0.0652 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.0025 mmol, 0.0023 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Porphyrin | C12=CC=C(N1)C=C1C=CC(=N1)C=C1C=CC(N1)=CC=1C=CC(N1)=C2 | C20H14N4
